US09085576B2
To a 1 L round-bottomed flask was added 3-(2,2-dimethoxyethyl)-5-methoxypicolinonitrile (8.550 g, 38.5 mmol), water (480 ml), and acetone (120 ml). An aqueous solution of sodium carbonate (3M; 154 ml, 462 mmol) was added followed by hydrogen peroxide (35 wt. % solution in water; 138 ml, 1347 mmol). The tan mixture was stirred vigorously at rt for 2 h. The organic solvent was removed under reduced pressure and the aqueous residue was extracted with DCM (3×). The combined organic fractions were dried over sodium sulfate. The filtrate was concentrated under reduced pressure to afford 3-(2,2-dimethoxyethyl)-5-methoxypicolinamide (8.200 g, 34.1 mmol, 89% yield) as an off-white solid that was advanced without further purification. MS m/z=263.2 (M+Na)+

reactant | 3-(2,2-dimethoxyethyl)-5-methoxypicolinonitrile | 38.5 mmol, 8.550 g | COC(CC=1C(=NC=C(C1)OC)C#N)OC | C11H14N2O3
reactant | water | 480 ml | O | H2O
reactant | sodium carbonate | 462 mmol, 3M, 154 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen peroxide | 1347 mmol, 138 ml | OO | H2O2
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 3-(2,2-dimethoxyethyl)-5-methoxypicolinamide | 34.1 mmol, 8.200 g, 89% yield | COC(CC=1C(=NC=C(C1)OC)C(=O)N)OC | C11H16N2O4
